US06579884B1
Synthesis of 7-amino-2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine
A mixture of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-7-nitroimidazo[1,2-a]pyridine (45 mg, 0.139 mmol) Raney-Ni (0.1 g) and ethyl alcohol 4 ml was hydrogenated (H2, 1 bar) at 40° C. for 3 h. The mixture was filtrated using a small amount of silica gel and the solvent was removed under reduced pressure. 40 mg (97%) of the title compound was obtained.

reactant | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-7-nitroimidazo[1,2-a]pyridine | 0.139 mmol, 45 mg | CC=1N=C2N(C=CC(=C2NCC2=C(C=CC=C2C)C)[N+](=O)[O-])C1C | C18H20N4O2
catalyst | Ni | 0.1 g | [Ni] | Ni
solvent | ethyl alcohol | 4 ml | C(C)O | C2H6O
product | 7-amino-2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine | 40 mg, 97% | NC1=C(C=2N(C=C1)C(=C(N2)C)C)NCC2=C(C=CC=C2C)C | C18H22N4
